US07629375B2
A mixture of 3,4-Bis-methoxymethoxy-benzaldehyde (5 mmol), thiazolidine-2,4-dione (5 mmol), benzoic acid (0.5 mmol), and piperidine (0.5 mmol) in toluene (150 mL) was heated to reflux for 15 h. Upon cooling, to the reaction mixture was added hexane (50 mL). The resulting suspension was gently stirred for 2 min and then allowed to settle. It was then filtrated and the solid was washed with cold benzene. 5-(3,4-Bis-methoxymethoxy-benzylidene)-thiazolidine-2,4-dione was obtained as a yellow solid (yield 92%). 1H-NMR (300 MHz, CDCl3) δ (ppm) 7.81 (s, 1H), 7.38 (d, J=2.0 Hz, 1H), 7.28-7.25(m, 1H), 7.18-7.15 (m, 1H), 5.32 (s, 2H), 5.63 (s, 2H), 3.57 (s, 3H), 3.54 (s, 3H). 13C-NMR (75 MHz) δ (ppm) 168.1, 167.6, 149.8, 147.9, 134.6, 127.7, 126.1, 121.0, 118.8, 116.8, 96.0, 95.5, 56.9, 56.8.

reactant | 3,4-Bis-methoxymethoxy-benzaldehyde | 5 mmol | COCOC=1C=C(C=O)C=CC1OCOC | C11H14O5
reactant | thiazolidine-2,4-dione | 5 mmol | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | benzoic acid | 0.5 mmol | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 0.5 mmol | N1CCCCC1 | C5H11N
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 50 mL | CCCCCC | C6H14
product | 5-(3,4-Bis-methoxymethoxy-benzylidene)-thiazolidine-2,4-dione | COCOC=1C=C(C=C2C(NC(S2)=O)=O)C=CC1OCOC | C14H15NO6S
